US08293505B2
The medium was adjusted to pH 7.0 with KOH, autoclaved at 115° C. for 10 minutes (provided that glycerol or glucose and MgSO4.7H2O were separately sterilized) and then 30 g/L of CaCO3 defined in Japanese Pharmacopoeia (subjected to hot air sterilization at 180° C. for 2 hours) was added.

reactant | KOH | [OH-].[K+]
reactant | glycerol | OCC(O)CO | C3H8O3
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
